US04659723
12.8 g (approx. 4.2 ml, that is 0.08 mol) of bromine are added dropwise to 22.4 g (0.08 mol) of 3-(4-chlorophenoxy)-3-methyl-1-(1,2,4-triazol-1-yl)-butan-2-one in 100 ml of glacial acetic acid at 50° C., while stirring. Thereafter, stirring is continued until the mixture has become completely decolourised (approx. 20 minutes), the mixture is poured into water and extracted with methylene chloride, and the organic phase is washed with sodium bicarbonate until it gives a neutral reaction. Thereafter, the solvent is removed in vacuo, and the residue is dissolved in 100 ml of acetonitrile. A homogeneous solution of 11.6 g (0.1 mol) of chloropyridine and 16 ml (0.1 mol) of triethylamine is added, all at once, to the stirred solution. When the exothermic reaction has died down, the mixture is kept at the boil for a further 30 minutes and then poured into water and extracted with methylene chloride. The organic phase is washed twice with dilute sodium hydroxide solution, and freed from the solvent, and the oil which remains is recrystallised from a small amount of methanol. 12.4 g (that is 31% of theory) of 1-(2-chloropyrid-6-yloxy)-3-(4-chlorophenoxy)-3-methyl-1-(1,2,4-triazol-1-yl)-butan-2-one of melting point 101° C. are obtained.

reactant | bromine | 0.08 mol, approx. 4.2 ml, 12.8 g | BrBr | Br2
reactant | 3-(4-chlorophenoxy)-3-methyl-1-(1,2,4-triazol-1-yl)-butan-2-one | 0.08 mol, 22.4 g | ClC1=CC=C(OC(C(CN2N=CN=C2)=O)(C)C)C=C1 | C13H14ClN3O2
reactant | chloropyridine | 0.1 mol, 11.6 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | triethylamine | 0.1 mol, 16 ml | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-(2-chloropyrid-6-yloxy)-3-(4-chlorophenoxy)-3-methyl-1-(1,2,4-triazol-1-yl)-butan-2-one | 12.4 g, 31% | ClC1=NC(=CC=C1)OC(C(C(C)(C)OC1=CC=C(C=C1)Cl)=O)N1N=CN=C1 | C18H16Cl2N4O3
